### PR TITLE
[Merged by Bors] - refactor: Make `Frame` extend `HeytingAlgebra`

### PR DESCRIPTION
**Pull request by YaelDillies**
It is mathematically true that a frame is a Heyting algebra. However we want nice defeqs, so we can't just provide an instance defining `himp` as some supremum. Instead, we need `Frame` to directly extend `HeytingAlgebra`.

---

- [x] depends on: #12730
- [x] depends on: #12731
- [x] depends on: #15005
- [x] depends on: #15006

I'm not exactly sure why there's a non-defeq diamond showing up in the `OrderDual` instances but not in the `Prod` ones.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Heyting/Basic.lean [hunk 1]
```diff
@@ -1118,17 +1100,15 @@ theorem toDual_sdiff (a b : α) : toDual (a \ b) = toDual b ⇨ toDual a :=
   rfl
 #align to_dual_sdiff toDual_sdiff
 
-instance Prod.coheytingAlgebra [CoheytingAlgebra β] : CoheytingAlgebra (α × β) :=
-  { Prod.lattice α β, Prod.boundedOrder α β, Prod.sdiff α β, Prod.hnot α β with
```
Comment (eric-wieser) [inline Mathlib/Order/Heyting/Basic.lean:1122]: Can you split this `where` vs `{}` cleanup to another PR? There seems to be quite a lot of it (which is good), but it seems orthogonal to adjusting the hierarchy.

Comment (YaelDillies) [reply Mathlib/Order/Heyting/Basic.lean:1122]: Seems time-consuming to do so because I'm also changing the parents order simultaneously.

Comment (adri326) [reply Mathlib/Order/Heyting/Basic.lean:1122]: That instance can be left unchanged, since it doesn't touch `HeytingAlgebra` nor `Frame`

Comment (adri326) [reply Mathlib/Order/Heyting/Basic.lean:1122]: Nevermind, a change is required for `OrderDual.instCompleteBooleanAlgebra` to unify the `himp` and `compl` from both `BooleanAlgebra` and `CompleteDistribLattice`

Comment (YaelDillies) [reply Mathlib/Order/Heyting/Basic.lean:1122]: I've decided to overdo things a bit to make sure the different structures (`OrderDual`, `Prod`, `Pi` mostly) align in the way their instances are defined

**Comment by adri326** [comment]
It seems like because `BooleanAlgebra` doesn't extend from `BiheytingAlgebra`, things later break down in `CompleteBooleanAlgebra`, as now there are two ambient instances for `(Co)heytingAlgebra`: the ones *extended* from `CompleteDistribLattice`, and the ones *synthesized* from `BooleanAlgebra`

File: Mathlib/Order/Heyting/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Order/Heyting/Basic.lean:1122]: I'll make the split

Comment (eric-wieser) [reply Mathlib/Order/Heyting/Basic.lean:1122]: #10588. I can deal with the merge conflicts here once that lands.

Comment (eric-wieser) [reply Mathlib/Order/Heyting/Basic.lean:1122]: I guess that didn't help with shrinking the diff all that much, though it's certainly more readavle now. The instance renaming looks to be the cause of most of the size here

Comment (YaelDillies) [reply Mathlib/Order/Heyting/Basic.lean:1122]: I don't have much more time to spend on this PR for the time being, but I'm happy for you to split off the renaming if you want to.

**Comment by eric-wieser** [comment]
I've split out #11238 from this to reduce the diff a little.

File: Mathlib/Order/Heyting/Basic.lean [hunk 2]
```diff
@@ -1186,6 +1165,20 @@ def LinearOrder.toBiheytingAlgebra [LinearOrder α] [BoundedOrder α] : Biheytin
...
+instance Prod.instBiheytingAlgebra [BiheytingAlgebra α] [BiheytingAlgebra β] :
+    BiheytingAlgebra (α × β) where
+  __ := instHeytingAlgebra
+  __ := instCoheytingAlgebra
+
+instance Pi.instBiheytingAlgebra {α : ι → Type*} [∀ i, BiheytingAlgebra (α i)] :
+    BiheytingAlgebra (∀ i, α i) where
+  __ := instHeytingAlgebra
+  __ := instCoheytingAlgebra
+
```
Comment (eric-wieser) [inline Mathlib/Order/Heyting/Basic.lean:1181]: Can you either split this, or mention it in the PR description?

Comment (eric-wieser) [reply Mathlib/Order/Heyting/Basic.lean:1181]: #12699 does the split.


As far as I can tell all the other changes in this file are just stylistic, and so probably don't belong in this PR at all?

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 3]
```diff
@@ -60,42 +60,31 @@ universe u v w
 variable {α : Type u} {β : Type v} {ι : Sort w} {κ : ι → Sort w'}
 
 /-- A frame, aka complete Heyting algebra, is a complete lattice whose `⊓` distributes over `⨆`. -/
-class Order.Frame (α : Type*) extends CompleteLattice α where
+class Order.Frame (α : Type*) extends CompleteLattice α, HeytingAlgebra α where
+  /-- `⊓` distributes over `⨆`. -/
   inf_sSup_le_iSup_inf (a : α) (s : Set α) : a ⊓ sSup s ≤ ⨆ b ∈ s, a ⊓ b
 #align order.frame Order.Frame
 
-/-- In a frame, `⊓` distributes over `⨆`. -/
```
Comment (eric-wieser) [inline Mathlib/Order/CompleteBooleanAlgebra.lean:67]: I picked up this and some others in #12700

File: Mathlib/Order/Heyting/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Order/Heyting/Basic.lean]: The style changes are my attempt to make sure everything is set up correctly.

I've split them off to #12709.

File: Mathlib/Data/Fintype/Order.lean [hunk 4]
```diff
@@ -108,6 +107,12 @@ noncomputable abbrev toCompleteDistribLattice [DistribLattice α] [BoundedOrder
     simp_rw [Set.mem_toFinset]
     rfl
 
+-- Porting note: `convert` doesn't work as well as it used to.
```
Comment (PatrickMassot) [inline Mathlib/Data/Fintype/Order.lean:110]: What is this porting note talking about here?

File: Mathlib/Order/Copy.lean [hunk 5]
```diff
@@ -88,12 +188,16 @@ def Frame.copy (c : Frame α) (le : α → α → Prop) (eq_le : le = (by infer_
...
     (sInf : Set α → α) (eq_sInf : sInf = (by infer_instance : InfSet α).sInf) : Frame α where
   toCompleteLattice := CompleteLattice.copy (@Frame.toCompleteLattice α c)
     le eq_le top eq_top bot eq_bot sup eq_sup inf eq_inf sSup eq_sSup sInf eq_sInf
   inf_sSup_le_iSup_inf := fun a s => by
     simp [eq_le, eq_sup, eq_inf, eq_sSup, @Order.Frame.inf_sSup_le_iSup_inf α _ a s]
+  __ := HeytingAlgebra.copy (@Frame.toHeytingAlgebra α c)
+    le eq_le top eq_top bot eq_bot sup eq_sup inf eq_inf himp eq_himp compl eq_compl
 
 -- Porting note: original proof uses
 -- `all_goals { abstract { subst_vars, casesI c, simp_rw le_eq, assumption } }`
```
Comment (PatrickMassot) [inline Mathlib/Order/Copy.lean:203]: I suspect this porting note is also no longer relevant.

File: Mathlib/Combinatorics/SimpleGraph/Finsubgraph.lean [hunk 6]
```diff
@@ -49,6 +49,8 @@ abbrev FinsubgraphHom (G' : G.Finsubgraph) (F : SimpleGraph W) :=
 
 local infixl:50 " →fg " => FinsubgraphHom
 
+namespace Finsubgraph
```
Comment (jcommelin) [inline Mathlib/Combinatorics/SimpleGraph/Finsubgraph.lean:52]: I think all these changes can go in a separate PR. Just
```
git checkout master
git checkout -b fancy-new-branch-name
git checkout frame_heyting_algebra -- Mathlib/Combinatorics/SimpleGraph/Finsubgraph.lean
git commit
gh pr create
```

File: Mathlib/Order/Copy.lean [hunk 7]
```diff
@@ -20,6 +20,20 @@ universe u
 
 variable {α : Type u}
 
+/-- A function to create a provable equal copy of a top order
```
Comment (jcommelin) [inline Mathlib/Order/Copy.lean:23]: Can the changes to this file be cherry-picked?

File: Mathlib/Data/Fintype/Order.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Data/Fintype/Order.lean:110]: Probably the remnant of a bad merge. Will remove

File: Mathlib/Topology/Sets/Compacts.lean [hunk 8]
```diff
@@ -445,70 +445,73 @@ theorem coe_mk (s : Compacts α) (h) : (mk s h : Set α) = s :=
 instance : Sup (CompactOpens α) :=
   ⟨fun s t => ⟨s.toCompacts ⊔ t.toCompacts, s.isOpen.union t.isOpen⟩⟩
 
-instance [QuasiSeparatedSpace α] : Inf (CompactOpens α) :=
-  ⟨fun U V =>
-    ⟨⟨(U : Set α) ∩ (V : Set α),
-        QuasiSeparatedSpace.inter_isCompact U.1.1 V.1.1 U.2 U.1.2 V.2 V.1.2⟩,
-      U.2.inter V.2⟩⟩
+instance : Bot (CompactOpens α) where bot := ⟨⊥, isOpen_empty⟩
```
Comment (jcommelin) [inline Mathlib/Topology/Sets/Compacts.lean:448]: How about this file? As far as I can see, these changes are basically orthogonal to your refactor. Or am I missing something?

Comment (YaelDillies) [reply Mathlib/Topology/Sets/Compacts.lean:448]: Almost orthogonal. I need the `himp` field now

File: Mathlib/Combinatorics/SimpleGraph/Finsubgraph.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Finsubgraph.lean:52]: Thanks for the tip! Maybe I'm still a git nood after all...

#15005

File: Mathlib/Order/Copy.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Order/Copy.lean:23]: #15006

File: Mathlib/Topology/Sets/Compacts.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Topology/Sets/Compacts.lean:448]: I put these changes in #15005 as well

File: Mathlib/Combinatorics/SimpleGraph/Finsubgraph.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Combinatorics/SimpleGraph/Finsubgraph.lean:52]: Those git commands look like a bad idea to me, that reverts all intermediate changes to `Finsubgraph`.
